US05162316
7-Cyclopropylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
A stirred mixture of 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.60 g) and cyclopropylamine (1.2 ml) in ethanol (20 ml) was heated for 18 hours at 90° C. in a pressure vessel. Further cyclopropylamine (1 ml) was added and the reaction mixture was stirred in a pressure vessel for 18 hours at 100° C. and then for 20 hours at 120° C. The cooled reaction mixture was evaporated under reduced pressure to yield a residue which was dissolved in 1 Normal sodium hydroxide. The resultant solution was treated with charcoal, filtered and the filtrate neutralised by the addition of concentrated hydrochloric acid which caused the precipitation of a crude product. The crude product was eluted from a silica column with chloroform as eluant, and the combined fractions containing product were evaporated under reduced pressure to yield a residue. This was twice recrystallised from methanol to yield the title compound, 0.23 g, m.p. 207.5°-208.5° C.

reactant | 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.60 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | cyclopropylamine | 1.2 ml | C1(CC1)N | C3H7N
reactant | cyclopropylamine | 1 ml | C1(CC1)N | C3H7N
reactant | charcoal | C | CH4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | 7-Cyclopropylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | C1(CC1)NC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C18H19N5O2
